US06166028
2-Chloro-1-cyclohexyloxy-4-nitro-benzene
Cylcohexanol (2.9 g) in dimethylsulfoxide (20 mL) is added slowly to a flask containing potassium hydride (0.90 g, pre-washed three times with hexanes) under an atmosphere of argon and the solution is stirred for about 1 hour at room temperature. A solution of 3-chloro-4-fluoro-nitrobenzene (1 g) in dimethylsulfoxide (10 mL) is added and the resulting dark red colored solution is then heated for three hours to approximately 100 degrees. The reaction mixture is then cooled, diluted with diethyl ether (300 mL), and washed successively with saturated aqueous ammonium chloride, three times with water, then with saturated aqueous sodium chloride. The organic layer is then dried over anhydrous magnesium sulfate, the solvent is removed under reduced pressure, and the resulting oil is chromatographed over silica gel (5% ethyl acetate in hexanes is used as the eluant) to provide the desired product as an orange solid.

reactant | Cylcohexanol | 2.9 g | C1(CCCCC1)O | C6H12O
reactant | potassium hydride | 0.90 g | [H-].[K+]
reactant | 3-chloro-4-fluoro-nitrobenzene | 1 g | ClC=1C=C(C=CC1F)[N+](=O)[O-] | C6H3ClFNO2
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 10 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | 300 mL | C(C)OCC | C4H10O
product | 2-Chloro-1-cyclohexyloxy-4-nitro-benzene | ClC1=C(C=CC(=C1)[N+](=O)[O-])OC1CCCCC1 | C12H14ClNO3
